US08895571B2
Step G: 2-[(2S)-2-[2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-5-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione
To a solution of 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one (0.065 g, 0.16 mmol) and phthalimide (0.029 g, 0.19 mmol) in tetrahydrofuran (5 mL) at 25° C. was added diethyl azodicarboxylate (0.096 mL, 0.24 mmol) and triphenylphosphine (0.055 g, 0.21 mmol). The reaction mixture was stirred at room temperature for 2 hr. After concentration, the residue was purified by pH=2 Prep.—HPLC to give 0.020 g (23% yield) of the desired product as white powder. LC/MS found: 530.1 (M+H)+.

reactant | 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | 0.16 mmol, 0.065 g | ClC=1C=NN(C1C1=CC=C2C(=N1)CN(C2=O)[C@H](CO)CC2=CC(=CC=C2)F)C | C20H18ClFN4O2
reactant | phthalimide | 0.19 mmol, 0.029 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 0.24 mmol, 0.096 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.21 mmol, 0.055 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[(2S)-2-[2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-5-oxo-5,7-dihydro-6H-pyrrolo[3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.020 g, 23% yield | ClC=1C=NN(C1C1=CC=C2C(=N1)CN(C2=O)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)C | C28H21ClFN5O3
